US04402862
1 g of IBAF-silica (ca. 1 mmole equiv. F) is suspended in 20 ml of THF containing 6.1 g (0.1 mole) of nitromethane and 1.04 g (5 mmole) of chalcone and the resulting mixture heated with stirring. to 60° C. for 1 h. Separation (the cooled reaction mixture is filtered, the residue washed with ether and the combined filtrates evaporated to dryness) and recrystallisation of the product from ethanol gives 1.16 g (86%) of 4-nitro-1,3-diphenylbutanone, m.p. 99°-100° C. The TBAF-silica is recovered in 95% yield. The same experiment carried out at room temperature gives a 75% yield of recrystallised product and a 99% yield of recovered TBAF-silica after 6 h. On repeating the room-temperature experiment using recovered TBAF-silica, a 70% yield of recrystallised product and ca. 97% of TBAF-silica are recovered after 6 h. A control experiment carried out in which the TBAF-silica is replaced by silica along gives no detectable product (by 1H n.m.r.) after 12 h. at room temperature.

reactant | THF | 0.1 mole, 20 ml, 6.1 g | C1CCOC1 | C4H8O
reactant | chalcone | 5 mmole, 1.04 g | C1(=CC=CC=C1)C=CC(=O)C1=CC=CC=C1 | C15H12O
reactant | nitromethane | [N+](=O)([O-])C | CH3NO2
product | 4-nitro-1,3-diphenylbutanone | 1.16 g, 86% | [N+](=O)([O-])CC(C(CC1=CC=CC=C1)=O)C1=CC=CC=C1 | C16H15NO3
